US05211889
3,6-Diphenylcyclohex-1-ene (50 mg, 0.21 mmol), m-chloroperbenzoic acid (55%, 200 mg, 0.64 mmol), and K2CO3 (150 mg, 1.09 mmol) were stirred in CH2Cl2 (10 mL) for 24 hours. The reaction mixture was filtered and washed with CH2Cl2 (40 mL). The filtrate and aqueous Na2S2O3 solution (10%, 10 mL) were stirred for 2 hours. The organic phase was washed with saturated NaHCO3 solution and H2O and dried over anhydrous magnesium sulfate. Preparative thin-layer chromatography (silica gel, 2 mm, developed with 10:1 hexane/EtOAc) gave 1,2-epoxy-3,6-diphenylcyclohexane (32 mg, 60% yield) as a colorless oil along with recovery of starting material (10 mg, 20%). 1,2-Epoxy-3,6-diphenylcyclohexane: 1H NMR (200 MHz, CDCl3) δ 7.20-7.45 (m, 10 H), 3.45 (s, 2 H), 3.37 (t, J=6.4 Hz, 2 H), 1.67-1.88 (m, 2 H), 1.37-1.58 (m, 2 H); 13C NMR (50 MHz), 143.2, 128.6, 128.0, 126.5, 56.2, 39.9, 25.0.

reactant | 3,6-Diphenylcyclohex-1-ene | 0.21 mmol, 50 mg | C1(=CC=CC=C1)C1C=CC(CC1)C1=CC=CC=C1 | C18H18
reactant | m-chloroperbenzoic acid | 0.64 mmol, 200 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | K2CO3 | 1.09 mmol, 150 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1,2-epoxy-3,6-diphenylcyclohexane | 32 mg, 60% yield | O1C2C1C(CCC2C2=CC=CC=C2)C2=CC=CC=C2 | C18H18O
